US05658922
20-Hydroxy-7β-methyl-5α-4-azapregnane-3-one
To a slurry of crude 20-tert-butyldimethylsilyloxy-7β-methyl-5α-4-azapregnane (25.2 gms) in acetonitrile (300 mL) was added an aqueous solution of hydrofluoric acid (12 mL). After stirring for 8 hr at room temperature, the reaction mixture was cooled to 0° C. and saturated sodium bicarbonate solution was slowly added. The mixture was extracted with methylene chloride (3×500 mL) and the combined extracts washed with water, saturated salt solution and dried over anhydrous sodium sulfate. The solvent was removed by rotoevaporation to give the title compound (22.3 gms) which was used without purification in the subsequent reaction.

reactant | 20-tert-butyldimethylsilyloxy-7β-methyl-5α-4-azapregnane | 25.2 gms | [Si](C)(C)(C(C)(C)C)OC(C)[C@H]1CC[C@H]2[C@@H]3[C@H](C[C@H]4NCCC[C@]4(C)[C@H]3CC[C@]12C)C | C27H51NOSi
reactant | hydrofluoric acid | 12 mL | F | FH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 300 mL | C(C)#N | C2H3N
product | 20-Hydroxy-7β-methyl-5α-4-azapregnane-3-one | 22.3 gms | OC(C)[C@H]1CC[C@H]2[C@@H]3[C@H](C[C@H]4NC(CC[C@]4(C)[C@H]3CC[C@]12C)=O)C | C21H35NO2
